US06117870
Subsequently, 0.98 ml (2.83 mmol) of the phenylmethyl 1-[N-(piperazine-1-carbonyl)amino]cyclohexanecarboxylate and 0.39 ml (2.83 mmol) of triethylamine were dissolved in 20 ml of anhydrous methylenechloride and then 0.21 ml (2.83 mmol) of chloromethylcarbonate was added to the above prepared mixture and stirred for 12 hours at the room temperature. The reaction solution was successively washed with 1N hydrochloric acid, saturated sodium hydrogen-carbonate solution and saturated brine, and dried over anhydrous sodium sulfate and concentrated under reduced pressure, whereby 1.12 g of phenylmethyl 1-[N-[4-(methoxycarbonyl)piperazine-1-carbonyl]amino]cyclohexanecarboxylate was obtained.

reactant | phenylmethyl 1-[N-(piperazine-1-carbonyl)amino]cyclohexanecarboxylate | 2.83 mmol, 0.98 ml | N1(CCNCC1)C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C19H27N3O3
reactant | triethylamine | 2.83 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | chloromethylcarbonate | 2.83 mmol, 0.21 ml | ClCOC([O-])=O
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | phenylmethyl 1-[N-[4-(methoxycarbonyl)piperazine-1-carbonyl]amino]cyclohexanecarboxylate | 1.12 g | COC(=O)N1CCN(CC1)C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C21H29N3O5
